US07112590B2
tert-Butyl 2-[[(1R)-2-((2S)-2-{[(2-amino-4,5,6,7-tetrahydro-1,3-benzothiazol-6-yl)amino]carbonyl}pyrrolidinyl)-1-(cyclohexylmethyl)-2-oxoethyl](tert-butoxycarbonyl)amino]acetate
The title compound was prepared from (2S)-1-((2R)-2-{(tert-butoxycarbonyl)[2-(tert-butoxy)-2-oxoethyl]amino}-3-cyclohexylpropanoyl)-2-pyrrolidinecarboxylic acid and 4,5,6,7-tetrahydro-1,3-benzothiazole-2,6-diamine dihydrobromide according to the procedure of EXAMPLE 25, and was obtained as a white solid.

reactant | (2S)-1-((2R)-2-{(tert-butoxycarbonyl)[2-(tert-butoxy)-2-oxoethyl]amino}-3-cyclohexylpropanoyl)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N([C@@H](C(=O)N1[C@@H](CCC1)C(=O)O)CC1CCCCC1)CC(=O)OC(C)(C)C | C25H42N2O7
reactant | 4,5,6,7-tetrahydro-1,3-benzothiazole-2,6-diamine dihydrobromide | Br.Br.S1C(=NC2=C1CC(CC2)N)N
product | tert-Butyl 2-[[(1R)-2-((2S)-2-{[(2-amino-4,5,6,7-tetrahydro-1,3-benzothiazol-6-yl)amino]carbonyl}pyrrolidinyl)-1-(cyclohexylmethyl)-2-oxoethyl](tert-butoxycarbonyl)amino]acetate | Yield: 65% | NC=1SC2=C(N1)CCC(C2)NC(=O)[C@H]2N(CCC2)C([C@@H](CC2CCCCC2)N(CC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C32H51N5O6S
